US07741341B2
50 mg (0.08 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid were dissolved in 4 mL DMF. Subsequently 20 mg DMAP, 34.3 mg (0.16 mmol) DCC and 46 μl (0.83 mmol) ethylene glycol were added. The resulting mixture was stirred for 8 h at 60° C. and then concentrated under removed pressure. The remaining residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) to give pure 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid 2-hydroxy-ethyl ester as a white amorphous solid. The corresponding dihydrochloride was obtained by treatment with a 0.1 M HCl-solution and following lyophilization. Yield: 22 mg MS (ES+): m/e=572, chloro pattern.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.08 mmol, 50 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
reactant | DCC | 0.16 mmol, 34.3 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethylene glycol | 0.83 mmol, 46 μl | C(CO)O | C2H6O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid 2-hydroxy-ethyl ester | OCCOC(=O)C1=CC=CC=2N(C(=NC21)C(NC2CCN(CC2)C(C)C)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl | C27H30ClN5O5S
